US06872730B2
Concentrated sulfuric acid (3ml) was cooled in an ice-water bath to 0° C. and added to a flask containing ethyl 5-(3-{2-[6-(methylamino)(2-pyridyl)]ethoxy}phenoxy)-4-oxopentanoate (190 mg, 0.5 mmol) at 0° C. The reaction was stirred 15 minutes and then poured over ice. The solution was neutralized with solid sodium hydrogencarbonate (pH=7) and the product was extracted with ethyl acetate. The organic layer was dried, filtered and evaporated under vacuum to yield 104 mg (57%) of Ethyl 3-(6-{2-[6-(methylamino)-2-pyridyl]ethoxy}benzo[b]furan-3-yl)propanoate. NMR 1H Cl3CD δ: 7.36 (m, 3H), 7.01 (d, 1H, J=2.1 Hz), 6.87 (dd, 1H, J=8.5, 2.1 Hz), 6.54 (d, 1H, J=7.2 Hz), 6.23 (d, 1H, J=8.2 Hz), 4.68 (br s, 1H), 4.15 (c, 2H, J=7.4 Hz), 3.09 (t, 2H, J=6.9 Hz), 2.97 (t, 2H, J=6.9 Hz), 2.87 (d, 3H, J=5.1 Hz), 2.68 (t, 2H, J=6.9 Hz), 1.26 (t, 1H, J=7.4 Hz).

reactant | sulfuric acid | 3ml | S(O)(O)(=O)=O | H2O4S
reactant | ethyl 5-(3-{2-[6-(methylamino)(2-pyridyl)]ethoxy}phenoxy)-4-oxopentanoate | 0.5 mmol, 190 mg | CNC1=CC=CC(=N1)CCOC=1C=C(OCC(CCC(=O)OCC)=O)C=CC1 | C21H26N2O5
reactant | sodium hydrogencarbonate | pH=7 | C(O)([O-])=O.[Na+]
product | Ethyl 3-(6-{2-[6-(methylamino)-2-pyridyl]ethoxy}benzo[b]furan-3-yl)propanoate | 104 mg, 57% | CNC1=CC=CC(=N1)CCOC=1C=CC2=C(OC=C2CCC(=O)OCC)C1 | C21H24N2O4
